US07091353B2
3-(2-Methoxy-ethylamino)-phthalic acid dimethyl ester
To a stirred solution of oxalyl chloride (1.75 ml, 20 mmol) in methylene chloride (20 ml) under a nitrogen atmosphere at −78° C. was added DMSO (1.42 ml, 20 mmol) in methylene chloride (10 ml) dropwise over 5 minutes. The mixture was stirred for 5 minutes followed by the dropwise addition of 2-methoxyethanol (1.58 ml, 20 mmol) in methylene chloride (10 ml) over 5 minutes. The mixture was stirred for 20 minutes followed by the dropwise addition of triethylamine (8.36 ml, 60 mmol) over 5 minutes. The resulting suspension was stirred for 30 minutes at −78° C. and then allowed to warm to room temperature. The reaction mixture was diluted with methylene chloride (20 ml). To this stirred mixture was added 3-amino-phthalic acid dimethyl ester (2.09 g, 10 mmol) and acetic acid (4.60 ml, 80 mmol). The mixture was stirred at room temperature under a nitrogen atmosphere for 5 minutes followed by the addition of sodium triacetoxyborohydride (4.24 g, 20 mmol). The mixture was stirred for 3 h. The reaction mixture was diluted with methylene chloride (50 ml) and washed with water (3×100 ml), saturated aqueous sodium bicarbonate (2×100 ml), brine (100 ml), and dried (MgSO4). The solvent was evaporated in vacuo and the residue purified by chromatography (25% ethyl acetate/hexane) to give 2.24 g (84%) of product as an oil. 1H NMR (DMSO-d6) d 7.32 (t, J=8.0 Hz, 1H), 6.88–6.79 (m, 3H), 3.85 (s, 3H), 3.83 (s, 3H), 3.62 (t, J=5.4 Hz, 2H), 3.41 (s, 3H), 3.35 (q, J=5.2 Hz, 2H).

reactant | oxalyl chloride | 20 mmol, 1.75 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 20 mmol, 1.42 ml | CS(=O)C | C2H6OS
reactant | 2-methoxyethanol | 20 mmol, 1.58 ml | COCCO | C3H8O2
reactant | triethylamine | 60 mmol, 8.36 ml | C(C)N(CC)CC | C6H15N
reactant | 3-amino-phthalic acid dimethyl ester | 10 mmol, 2.09 g | COC(C=1C(C(=O)OC)=C(C=CC1)N)=O | C10H11NO4
reactant | acetic acid | 80 mmol, 4.60 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 20 mmol, 4.24 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-Methoxy-ethylamino)-phthalic acid dimethyl ester | 2.24 g, 84% | COC(C=1C(C(=O)OC)=C(C=CC1)NCCOC)=O | C13H17NO5
